* c:\fossee\esim\library\subcircuitlibrary\2bit_vedic_multi\2bit_vedic_multi.cir

.include and_kalyan.sub
.include HA_kalyan.sub
x3 a1 b0 net-_x3-pad3_ and_kalyan
x4 a1 b1 net-_x4-pad3_ and_kalyan
x1 a0 b0 y0 and_kalyan
x2 a0 b1 net-_x2-pad3_ and_kalyan
* u1  a0 a1 b0 b1 y0 y1 y2 y3 port
x5 net-_x2-pad3_ net-_x3-pad3_ net-_x5-pad3_ y1 HA_kalyan
x6 net-_x5-pad3_ net-_x4-pad3_ y3 y2 HA_kalyan
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
