* Subcircuit 2bit_vedic_multi
.subckt 2bit_vedic_multi a0 a1 b0 b1 y0 y1 y2 y3 
* c:\fossee\esim\library\subcircuitlibrary\2bit_vedic_multi\2bit_vedic_multi.cir
.include and_kalyan.sub
.include HA_kalyan.sub
x3 a1 b0 net-_x3-pad3_ and_kalyan
x4 a1 b1 net-_x4-pad3_ and_kalyan
x1 a0 b0 y0 and_kalyan
x2 a0 b1 net-_x2-pad3_ and_kalyan
x5 net-_x2-pad3_ net-_x3-pad3_ net-_x5-pad3_ y1 HA_kalyan
x6 net-_x5-pad3_ net-_x4-pad3_ y3 y2 HA_kalyan
* Control Statements

.ends 2bit_vedic_multi