* c:\fossee\esim\library\subcircuitlibrary\ha_kalyan\ha_kalyan.cir

.include and_kalyan.sub
.include xor_gate_kalyan.sub
x2 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad4_ xor_gate_kalyan
x1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ and_kalyan
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
