* c:\fossee\esim\library\subcircuitlibrary\vedic_multiplier_4bit\vedic_multiplier_4bit.cir

.include HA_kalyan.sub
.include partial_product_generator.sub
x1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ p3 p2 p1 p0 q3 q2 q1 q0 r3 r2 r1 r0 s3 s2 s1 s0 partial_product_generator
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ port
* u4  p1l p0l net-_u1-pad10_ net-_u1-pad9_ dac_bridge_2
* u2  q3l q2l q1l q0l r3l r2l r1l r0l net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ ksa_4bit
* u3  net-_u10-pad2_ net-_u10-pad2_ p3l p2l net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ ksa_4bit
* u6  net-_u3-pad12_ net-_u3-pad13_ net-_u1-pad12_ net-_u1-pad11_ dac_bridge_2
* u5  net-_u5-pad1_ net-_u5-pad2_ net-_u3-pad10_ net-_u3-pad11_ s3l s2l s1l s0l net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ ksa_4bit
x2 net-_u8-pad3_ net-_u8-pad4_ net-_u9-pad2_ net-_u9-pad1_ HA_kalyan
* u7  net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ net-_u1-pad17_ net-_u1-pad16_ net-_u1-pad15_ net-_u1-pad14_ net-_u1-pad13_ dac_bridge_5
* u8  net-_u2-pad9_ net-_u3-pad9_ net-_u8-pad3_ net-_u8-pad4_ dac_bridge_2
* u9  net-_u9-pad1_ net-_u9-pad2_ net-_u5-pad2_ net-_u5-pad1_ adc_bridge_2
* u10  gnd net-_u10-pad2_ adc_bridge_1
* u11  p3 p2 p1 p0 q3 q2 q1 q0 r3 r2 r1 r0 s3 s2 s1 s0 net-_u11-pad17_ p3l p2l p1l p0l q3l q2l q1l q0l r3l r2l r1l r0l s3l s2l s1l s0l dff_16
* u12  net-_u1-pad18_ net-_u11-pad17_ adc_bridge_1
a1 [p1l p0l ] [net-_u1-pad10_ net-_u1-pad9_ ] u4
a2 [q3l q2l q1l q0l ] [r3l r2l r1l r0l ] [net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ ] u2
a3 [net-_u10-pad2_ net-_u10-pad2_ p3l p2l ] [net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ ] [net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ ] u3
a4 [net-_u3-pad12_ net-_u3-pad13_ ] [net-_u1-pad12_ net-_u1-pad11_ ] u6
a5 [net-_u5-pad1_ net-_u5-pad2_ net-_u3-pad10_ net-_u3-pad11_ ] [s3l s2l s1l s0l ] [net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ ] u5
a6 [net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ ] [net-_u1-pad17_ net-_u1-pad16_ net-_u1-pad15_ net-_u1-pad14_ net-_u1-pad13_ ] u7
a7 [net-_u2-pad9_ net-_u3-pad9_ ] [net-_u8-pad3_ net-_u8-pad4_ ] u8
a8 [net-_u9-pad1_ net-_u9-pad2_ ] [net-_u5-pad2_ net-_u5-pad1_ ] u9
a9 [gnd ] [net-_u10-pad2_ ] u10
a10 [p3 p2 p1 p0 q3 q2 q1 q0 r3 r2 r1 r0 s3 s2 s1 s0 ] [net-_u11-pad17_ ] [p3l p2l p1l p0l q3l q2l q1l q0l r3l r2l r1l r0l s3l s2l s1l s0l ] u11
a11 [net-_u1-pad18_ ] [net-_u11-pad17_ ] u12
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             ksa_4bit, NgSpice Name: ksa_4bit
.model u2 ksa_4bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             ksa_4bit, NgSpice Name: ksa_4bit
.model u3 ksa_4bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             ksa_4bit, NgSpice Name: ksa_4bit
.model u5 ksa_4bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_5, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u8 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u9 adc_bridge(in_low=0.2 in_high=1.6 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u10 adc_bridge(in_low=0.2 in_high=1.6 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dff_16, NgSpice Name: dff_16
.model u11 dff_16(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u12 adc_bridge(in_low=0.2 in_high=1.6 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-00 5e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
