* Subcircuit HA_kalyan
.subckt HA_kalyan net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ 
* c:\fossee\esim\library\subcircuitlibrary\ha_kalyan\ha_kalyan.cir
.include and_kalyan.sub
.include xor_gate_kalyan.sub
x2 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad4_ xor_gate_kalyan
x1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ and_kalyan
* Control Statements

.ends HA_kalyan