* c:\fossee\esim\library\subcircuitlibrary\not_gate_kalyan\not_gate_kalyan.cir

xsc2 net-_sc1-pad1_ net-_sc1-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 w=1 l=1
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ vdd vdd sky130_fd_pr__pfet_01v8 w=2 l=1
v1 vdd gnd  dc 1.8
* u1  net-_sc1-pad2_ net-_sc1-pad1_ port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
