* c:\fossee\esim\library\subcircuitlibrary\partial_product_generator\partial_product_generator.cir

.include 2bit_vedic_multi.sub
x4 a2 a3 b2 b3 net-_u2-pad4_ net-_u2-pad3_ net-_u2-pad2_ net-_u2-pad1_ 2bit_vedic_multi
x3 a2 a3 b0 b1 net-_u5-pad4_ net-_u5-pad3_ net-_u5-pad2_ net-_u5-pad1_ 2bit_vedic_multi
x2 a0 a1 b2 b3 net-_u4-pad4_ net-_u4-pad3_ net-_u4-pad2_ net-_u4-pad1_ 2bit_vedic_multi
x1 a0 a1 b0 b1 net-_u3-pad4_ net-_u3-pad3_ net-_u3-pad2_ net-_u3-pad1_ 2bit_vedic_multi
* u1  a0 a1 a2 a3 b0 b1 b2 b3 net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ port
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ adc_bridge_4
* u4  net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ adc_bridge_4
* u5  net-_u5-pad1_ net-_u5-pad2_ net-_u5-pad3_ net-_u5-pad4_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ adc_bridge_4
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ adc_bridge_4
a1 [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ ] [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ ] u3
a2 [net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ ] [net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ ] u4
a3 [net-_u5-pad1_ net-_u5-pad2_ net-_u5-pad3_ net-_u5-pad4_ ] [net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ ] u5
a4 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ ] [net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ ] u2
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=0.2 in_high=1.6 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=0.2 in_high=1.6 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=0.2 in_high=1.6 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=0.2 in_high=1.6 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
